US04314943
4-ETHYL-7-METHOXYQUINAZOLIN-6-OL. 2-Methoxyphenol was esterified by reaction with chloroacetyl chloride to give in 75% yield, 2-methoxyphenyl chloroacetate, m.p. 60°-61.5°. This material was acylated with propionic acid in the presence of polyphosphoric acid to produce 2-methoxy-5-propionylphenyl chloroacetate in 75% yield, m.p. 77°-79.5° C. This ester was hydrolyzed with sodium acetate in methanol to yield 1-(3-hydroxy-4-methoxyphenyl)-1-propanone, m.p. 91°-92°, yield 90%. Benzylation of the latter by treatment in acetone with benzyl chloride and potassium carbonate yielded 1-(3-benzyloxy-4-methoxyphenyl)-1-propanone, m.p. 83°-85°, yield 96%. The latter was then nitrated by treatment with 1:3 nitric acid/acetic acid at 18°-20° to yield 1-(2-nitro-4-methoxy-5-benzyloxyphenyl)-1-propanone, m.p. 120.5°-123°, yield 65%. Reduction of this material with hydrazine hydrate and Raney nickel yielded 1-(2-amino- 4-methoxy-5-benzyloxyphenyl)-1-propanone. The latter was cyclized by treatment with formic acid and formamide to yield 6-benzyloxy-4-ethyl-7-methoxyquinoline, yield 80%, m.p. 132°-134°. Catalytic hydrogenation of the latter resulted in debenzylation to yield 4-ethyl-7-methoxyquinolin-6-ol in 85% yield, m.p. 200°-202° which was required as starting material for Procedure 7.

reactant | 4-ETHYL-7-METHOXYQUINAZOLIN-6-OL | C(C)C1=NC=NC2=CC(=C(C=C12)O)OC | C11H12N2O2
reactant | 2-Methoxyphenol | COC1=C(C=CC=C1)O | C7H8O2
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
product | 2-methoxyphenyl chloroacetate | 75% yield | ClCC(=O)OC1=C(C=CC=C1)OC | C9H9ClO3
